US07678798B2
A solution of 5-bromoindan-1-ol (5.00 g, 23.5 mmol) and p-Toluenesulfonic acid monohydrate (100 mg, 0.5 mmol) in benzene (150.00 mL) was heated to reflux for 2 h and water was continuously removed from the reaction mixture with a Dean-Stark trap. After cooling to room temperature, the benzene solution was washed with water, dried over anhydrous Na2SO4 and concentrated under reduced pressure. Purification of the residue by flash chromatography (hexane) yielded pure 5-bromoindene (4.0 g, 87%).

reactant | 5-bromoindan-1-ol | 23.5 mmol, 5.00 g | BrC=1C=C2CCC(C2=CC1)O | C9H9BrO
reactant | p-Toluenesulfonic acid monohydrate | 0.5 mmol, 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 150.00 mL | C1=CC=CC=C1 | C6H6
product | 5-bromoindene | 4.0 g, 87% | BrC=1C=C2C=CCC2=CC1 | C9H7Br
